US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-cyano-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (90 mg, 0.160 mmol) and potassium carbonate (66.2 mg, 0.479 mmol) in Methanol (5 ml) was added dimethyl-1-diazo-2-oxopropylphosphonate (46.0 mg, 0.240 mmol) and the reaction mixture was stirred at RT overnight. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethynylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (48 mg, 0.086 mmol, 54% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.87 (s, 1H), 7.54 (s, 1H), 7.31-7.45 (m, 2H), 7.25 (s, 1H), 7.20 (s, 1H), 5.57 (s, 3H), 4.59 (s, 2H), 3.75 (s, 1H), 3.47 (t, 2H), 0.80 (t, 2H), −0.07 (s, 9H).

reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.160 mmol, 90 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=O)C#N)F)COCC[Si](C)(C)C | C25H25Cl2FN4O4Si
reactant | potassium carbonate | 0.479 mmol, 66.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl-1-diazo-2-oxopropylphosphonate | 0.240 mmol, 46.0 mg | CC(C(C(=[N+]=[N-])P([O-])([O-])=O)=O)C
solvent | Methanol | 5 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethynylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.086 mmol, 48 mg, 54% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#C)C#N)F)COCC[Si](C)(C)C | C26H25Cl2FN4O3Si
